US08293903B2
Prepared as described in example 24 using 2-chloro-4-(trifluoromethyl)pyrimidine in place of 4-chloro-6-(trifluoromethyl)pyrimidine and modifying step 9 as follows. The HCl salt of 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-{[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(2,2-difluoroethyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol (175 mg, 0.41 mmol) was placed in flask with 1,4-dioxane (3 ml). Triethylamine (0.2 ml, 1.43 mmol) was added as well as 2-chloro-4-(trifluoromethyl)pyrimidine (237 mg, 1.30 mmol). DMSO (0.3 ml) was added for solubility and the reaction was heated to 100° C. for 14.5 hours. The reaction was cooled to room temperature and partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate and the combined organics were washed with brine, dried over MgSO4, concentrated under reduced pressure and purified with the Biotage (0-100% methanol/ethyl acetate 15 column volumes) to give 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-(2,2-difluoroethyl)-3-({(1S,4S)-5-[4-(trifluoromethyl)pyrimidin-2-yl]-2,5-diazabicyclo[2.2.1]hept-2-yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol as a brown foam (126 mg, 58%). LC/MS (M+H)=534.2504 exp, 534.2452 obs; 1H NMR (400 MHz, CDCl3) δ ppm 8.48-8.45 (1H), 6.79-6.78 (1H), 5.96-5.58 (1H), 5.10-4.71 (2H), 4.07-4.01 (1H), 3.93-3.87 (1H), 3.69-3.55 (4H), 3.39-3.32 (4H), 3.30-3.21 (3H), 2.77-2.66 (1H), 2.52-2.40 (1H), 2.23-1.82 (7H), 1.70-1.39 (5H)

reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | HCl | Cl | ClH
reactant | 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-{[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(2,2-difluoroethyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol | 0.41 mmol, 175 mg | [C@@H]12N(C[C@@H](NC1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2CCOC[C@H]2OC)CC(F)F | C19H31F2N3O3
reactant | Triethylamine | 1.43 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 1.30 mmol, 237 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
solvent | DMSO | 0.3 ml | CS(=O)C | C2H6OS
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-(2,2-difluoroethyl)-3-({(1S,4S)-5-[4-(trifluoromethyl)pyrimidin-2-yl]-2,5-diazabicyclo[2.2.1]hept-2-yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol | 126 mg, 58% | FC(C[C@]1(C[C@@H](CC1)N[C@H]1CCOC[C@H]1OC)C(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC=CC(=N2)C(F)(F)F)F | C24H32F5N5O3
